US06008230
A mixture of 8-amino-4-(2,6-dichlorobenzoyloxy)quinoline (210 mg), 2,6-dichlorobenzoyl chloride (145 mg) and triethylamine (191 mg) in ethylene chloride (3 ml) was stirred for 24 hours at 70° C. The mixture was diluted with dichloromethane, washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was washed with diethyl ether to give 4-(2,6-dichlorobenzoyloxy)-8-(2,6-dichlorobenzoylamino)quinoline (290 mg).

reactant | 8-amino-4-(2,6-dichlorobenzoyloxy)quinoline | 210 mg | NC=1C=CC=C2C(=CC=NC12)OC(C1=C(C=CC=C1Cl)Cl)=O | C16H10Cl2N2O2
reactant | 2,6-dichlorobenzoyl chloride | 145 mg | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | triethylamine | 191 mg | C(C)N(CC)CC | C6H15N
solvent | ethylene chloride | 3 ml | C(CCl)Cl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(2,6-dichlorobenzoyloxy)-8-(2,6-dichlorobenzoylamino)quinoline | 290 mg | ClC1=C(C(=O)OC2=CC=NC3=C(C=CC=C23)NC(C2=C(C=CC=C2Cl)Cl)=O)C(=CC=C1)Cl | C23H12Cl4N2O3
